US07786165B2
tert-butyl 3-{4-[({4′-[2-(ethylsulfonyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate
To a solution of tert-butyl 3-(4-{({4′-[2-(ethylsulfonyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (1.67 g, 2.21 mmol) and mercaptoacetic acid (0.51 mL, 6.64 mmol) in N,N-dimethylformamide (17 mL) was added lithium hydroxide monohydrate (0.56 g, 13.3 mmol) under stirring at room temperature, and the mixture was stirred at the same temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate. and saturated brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-hexane/ethyl acetate=1/1) to give the title compound (1.17 g, yield 93%) as a colorless oil.

reactant | tert-butyl 3-(4-{({4′-[2-(ethylsulfonyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 2.21 mmol, 1.67 g | C(C)S(=O)(=O)CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C38H43FN2O9S2
reactant | mercaptoacetic acid | 6.64 mmol, 0.51 mL | SCC(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 13.3 mmol, 0.56 g | O.[OH-].[Li+]
solvent | N,N-dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-{4-[({4′-[2-(ethylsulfonyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 1.17 g, yield 93% | C(C)S(=O)(=O)CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)C | C32H40FNO5S
